US07834051B2
tert-butyl(3-chlorophenyl)[(1S)-1-methyl-2-oxoethyl]carbamate
A solution of oxalyl chloride (318 mg) in methylene chloride (6 mL) was cooled using dry ice/acetone under a nitrogen atmosphere, and a solution of DMSO (258 mg) in methylene chloride (6 mL) was added. The mixture was stirred at the same temperature for 10 min, a solution of tert-butyl(3-chlorophenyl)[(1S)-2-hydroxy-1-methylethyl]carbamate (500 mg) in methylene chloride (8 mL) was added, and the mixture was stirred at the same temperature for 10 min. Triethylamine (0.925 mL) was added, and the mixture was stirred at the same temperature for 30 min. Water (30 mL) was added, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentration under reduced pressure to give the title compound as a colorless oil (yield: 480 mg, 96%).

reactant | oxalyl chloride | 318 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | DMSO | 258 mg | CS(=O)C | C2H6OS
reactant | tert-butyl(3-chlorophenyl)[(1S)-2-hydroxy-1-methylethyl]carbamate | 500 mg | C(C)(C)(C)OC(N([C@H](CO)C)C1=CC(=CC=C1)Cl)=O | C14H20ClNO3
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 30 mL | O | H2O
solvent | Triethylamine | 0.925 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl(3-chlorophenyl)[(1S)-1-methyl-2-oxoethyl]carbamate | yield: 480 mg, 96% | C(C)(C)(C)OC(N([C@H](C=O)C)C1=CC(=CC=C1)Cl)=O | C14H18ClNO3
